US04212879
2.18 g (13.9 mmole) of 3-benzylpyrrole, 0.42 g (13.9 mmole) of paraformaldehyde and 0.07 g (0.5 mmole) of anhydrous potassium carbonate are mixed and stirred at 50° C. for 4 hours in an atmosphere of nitrogen. Dry tetrahydrofuran is added to the reaction solution and filtered. The filtrate is concentrated to obtain 2.53 g of 3-benzyl-1-pyrrolylmethanol as a pale yellow liquid. Yield 97.3%. nD31.5 1.5837.

reactant | 3-benzylpyrrole | 13.9 mmole, 2.18 g | C(C1=CC=CC=C1)C1=CNC=C1 | C11H11N
reactant | paraformaldehyde | 13.9 mmole, 0.42 g | C=O | CH2O
catalyst | potassium carbonate | 0.5 mmole, 0.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-benzyl-1-pyrrolylmethanol | 2.53 g, Yield 97.3% | C(C1=CC=CC=C1)C1=C(NC=C1)CO | C12H13NO
